US04847073
2(3,5,5-trimethyl-2-cyclohexenylidene) cyanoacetic acid (0.2 mol) and thionyl chloride (50 mls) were refluxed together for 1 hr. The acid chloride was then added dropwise with stirring to n-butylamine (0.4 mol) in petroleum ether (340 mls). The flask may have to be cooled with an ice bath. After addition, 1N HCl (150 mls) was added and the mixture stirred. The mixture was allowed to separate and the upper layer was washed until acid free. It was then treated with 1.4 g activated carbon, then n-butyl (3,5,5-trimethyl-2-cyclohexenylidene) cyanoacetamide was isolated. Ref. J. Am. Chem. Soc., 1949, 71, 2215.

reactant | 2(3,5,5-trimethyl-2-cyclohexenylidene) cyanoacetic acid | 0.2 mol | CC1=CC(CC(C1)(C)C)=C(C(=O)O)C#N | C12H15NO2
reactant | thionyl chloride | 50 mls | S(=O)(Cl)Cl | Cl2OS
reactant | n-butylamine | 0.4 mol | C(CCC)N | C4H11N
solvent | HCl | 1N, 150 mls | Cl | ClH
product | n-butyl (3,5,5-trimethyl-2-cyclohexenylidene) cyanoacetamide | C(CCC)NC(C(C#N)=C1C=C(CC(C1)(C)C)C)=O | C16H24N2O
